US07355069B2
b) Methyl 2-[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenoxy)methyl]-benzoate
N-(2,4-difluorobenzyl)-N-heptyl-3-(4-hydroxyphenyl)propanamide (195 mg, 0.501 mmol), 2-bromomethylbenzoic acid methyl ester (120.4 mg, 0.526 mmol) and anhydrous potassium carbonate (103 mg, 0.751 mmol) were mixed in acetonitrile (15 ml). The mixture was heated to reflux overnight and then evaporated to dryness. Water and ethyl acetate were added and the two phases were separated. The organic phase was dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using heptane/DCM (50:50), then DCM and then MeOH/DCM (0.5:99.5) as eluant gave 187 mg desired product, yield 69.5%.

reactant | N-(2,4-difluorobenzyl)-N-heptyl-3-(4-hydroxyphenyl)propanamide | 0.501 mmol, 195 mg | FC1=C(CN(C(CCC2=CC=C(C=C2)O)=O)CCCCCCC)C=CC(=C1)F | C23H29F2NO2
reactant | 2-bromomethylbenzoic acid methyl ester | 0.526 mmol, 120.4 mg | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | potassium carbonate | 0.751 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl 2-[(4-{3-[(2,4-difluorobenzyl)(heptyl)amino]-3-oxopropyl}phenoxy)methyl]-benzoate | 187 mg, yield 69.5% | FC1=C(CN(C(CCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)=O)CCCCCCC)C=CC(=C1)F | C32H37F2NO4
